US07674804B2
N-[2-Chloro-6-(piperidin-4-ylamino)-pyrimidin-4-yl]-acetamide dihydrochloride
A solution of 4-(6-acetylamino-2-chloro-pyrimidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (0.1 g, 0.27 mmol) in ethanol (2 mL) and 4 M HCl in dioxane (2 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 270.0 [M+H]+.

reactant | 4-(6-acetylamino-2-chloro-pyrimidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 0.27 mmol, 0.1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC(=NC(=C1)NC(C)=O)Cl | C16H24ClN5O3
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | HCl | 4 M | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N-[2-Chloro-6-(piperidin-4-ylamino)-pyrimidin-4-yl]-acetamide dihydrochloride | Cl.Cl.ClC1=NC(=CC(=N1)NC(C)=O)NC1CCNCC1 | InChI=1S/C11H16ClN5O.2ClH/c1-7(18)14-9-6-10(17-11(12)16-9)15-8-2-4-13-5-3-8;;/h6,8,13H,2-5H2,1H3,(H2,14,15,16,17,18);2*1H
